US07375087B2
3-(β-D-Galactopyranosyloxy)-5-isopropyl-4-{[4-(4-{1-[(4-methylpiperazin-1-yl)carbonyl]-1-(methyl)-ethylcarbamoyl}butyl)phenyl]methyl}-1H-pyrazole
The title compound was prepared in a similar manner to that described in Example 78 using 3-(2,3,4,6-tetra-O-acetyl-β-D-galactopyranosyloxy)-4-[(4-{4-[1-carboxy-1-(methyl)-ethylcarbamoyl]butyl}phenyl)methyl]-5-isopropyl-1H-pyrazole and 1-methylpiperazine instead of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-{[4-(2-carboxyethoxy)-2-methylphenyl]methyl}-5-isopropyl-1H-pyrazole and 2-amino-2-methylpropionamide, respectively.

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-galactopyranosyloxy)-4-[(4-{4-[1-carboxy-1-(methyl)-ethylcarbamoyl]butyl}phenyl)methyl]-5-isopropyl-1H-pyrazole | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)CCCCC(NC(C)(C)C(=O)O)=O)C(C)C | C36H49N3O13
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | 2-amino-2-methylpropionamide | NC(C(=O)N)(C)C | C4H10N2O
product | 3-(β-D-Galactopyranosyloxy)-5-isopropyl-4-{[4-(4-{1-[(4-methylpiperazin-1-yl)carbonyl]-1-(methyl)-ethylcarbamoyl}butyl)phenyl]methyl}-1H-pyrazole | [C@@H]1([C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO)OC1=NNC(=C1CC1=CC=C(C=C1)CCCCC(NC(C)(C)C(=O)N1CCN(CC1)C)=O)C(C)C | C33H51N5O8
